US04483857
4-Amino-6,7-dimethoxy-2-[4-(2-morpholinopyrimidin-4-yl)-piperazino] quinazoline
4-Amino-6,7-dimethoxy-2-[4-(2-chloropyrimidin-4-yl)-piperazino] quinazoline (2.0 g, 5.0 mmole) and morpholine (1.1 g, 12.6 mmole) in n-butanol (150 ml) were heated in a bomb at 160° C. for 19 hours. The solvent was evaporated in vacuo and the residue partitioned between 5% methanol in chloroform and 5N sodium hydroxide solution. The organic layer was separated, washed with water, dried (Na2SO4) and evaporated in vacuo. The residue was chromatographed on silica gel (20 g, "Kieselgel" (Trade Mark) 60H) eluting with chloroform. Appropriate fractions were combined and evaporated in vacuo. Crystallization from ethyl acetate gave 0.8 g of the desired product, m.p. 232°-233° C.

reactant | 4-Amino-6,7-dimethoxy-2-[4-(2-chloropyrimidin-4-yl)-piperazino] quinazoline | 5.0 mmole, 2.0 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C1=NC(=NC=C1)Cl | C18H20ClN7O2
reactant | morpholine | 12.6 mmole, 1.1 g | N1CCOCC1 | C4H9NO
solvent | n-butanol | 150 ml | C(CCC)O | C4H10O
product | 4-Amino-6,7-dimethoxy-2-[4-(2-morpholinopyrimidin-4-yl)-piperazino] quinazoline | 0.8 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C1=NC(=NC=C1)N1CCOCC1 | C22H28N8O3
